Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
Left leg pain
 
Major Surgical or Invasive Procedure:
___: Left lower extremity angiogram and iliofemoral 
embolectomy.

 
History of Present Illness:
___ with history of afib on Pradaxa, ___ transferred from
for management of his left iliac artery occlusion. Patient
reports he was walking yesterday about 1pm when he experienced
acute onset left leg pain, numbness and weakness. He went to
___ who proceeded with a neurological work up that was
negative and got a CTA with runoff that demonstrated left common
iliac and external iliac occlusion. He was started on heparin 
and
was transferred here for vascular surgery. His symptoms have
improved since his arrival to ___. He denies numbness and
only has thigh pain with ambulation. Of note the patient reports
he may have missed a dose of pradaxa.
 
Past Medical History:
PAST MEDICAL HISTORY:
A-Fib
HTN
HLD
BPH
     
PAST SURGICAL HISTORY 
Transurethral resection of the prostate                          


 
Social History:
___
Family History:
mother had strokes, father had coronary disease
 
Physical Exam:
Vitals: 24 HR Data (last updated ___ @ 1118)
    Temp: 98.3 (Tm 99.9), BP: 170/89 (114-170/69-94), HR: 82
(76-95), RR: 18, O2 sat: 96% (___), O2 delivery: Ra
GENERAL: [x]NAD  []A/O x 3  []intubated/sedated []abnormal
CV: [x]RRR  [] irregularly irregular []no MRG  []Nl S1S2
[]abnormal
PULM: []CTA b/l  [x]no respiratory distress  []abnormal
ABD: [x]soft  []Nontender  []appropriately tender 
[]nondistended  []no rebound/guarding  []abnormal
WOUND: [x]CD&I, no palpable hematoma or overlying ecchymosis
EXTREMITIES: []no CCE []abnormal
PULSES: R: p/ / p/p    L: p/ / p/p
 
Pertinent Results:
___ 05:17AM BLOOD WBC-9.2 RBC-4.60 Hgb-14.2 Hct-41.8 MCV-91 
MCH-30.9 MCHC-34.0 RDW-12.9 RDWSD-41.8 Plt Ct-99*
___ 05:17AM BLOOD Plt Ct-99*
___ 05:00AM BLOOD Glucose-120* UreaN-18 Creat-0.7 Na-141 
K-4.1 Cl-107
___ 05:00AM BLOOD Calcium-8.6 Phos-4.2 Mg-2.1
___ 05:00AM BLOOD %HbA1c-5.6 eAG-114

REPORTS:
TEE CONCLUSION:
The left atrial volume index is SEVERELY increased. The right 
atrium is markedly enlarged. There is no
evidence for an atrial septal defect by 2D/color Doppler. The 
estimated right atrial pressure is ___ mmHg.
There is normal left ventricular wall thickness with a normal 
cavity size. There is normal regional and global
left ventricular systolic function. No thrombus or mass is seen 
in the left ventricle. Quantitative biplane left
ventricular ejection fraction is 65 % (normal 54-73%). There is 
no resting left ventricular outflow tract
gradient. Mildly dilated right ventricular cavity with normal 
free wall motion. The aortic sinus is mildly dilated
with mildly dilated ascending aorta. The aortic arch diameter is 
normal with a normal descending aorta
diameter. There is no evidence for an aortic arch coarctation. 
The aortic valve leaflets (3) are mildly
thickened. There is no aortic valve stenosis. There is trace 
aortic regurgitation. The mitral valve leaflets are
mildly thickened with no mitral valve prolapse. There is trivial 
mitral regurgitation. The pulmonic valve leaflets
are normal. The tricuspid valve leaflets appear structurally 
normal. There is mild to moderate [___] tricuspid
regurgitation. There is mild pulmonary artery systolic 
hypertension. There is a trivial pericardial effusion.
IMPRESSION: No definite left ventricular or atrial thrombi 
identified. Normal left ventricular wall
thickness, cavity size, and regional/global systolic function. 
Mild right ventricular cavity dilation
with normal systolic function. Mild to moderate tricuspid 
regurgitation. Mild pulmonary artery
systolic hypertension.
RECOMMEND: Of note, a transthoracic echocardiogram cannot 
exclude presence of thrombus in the
left atrial appendage, which would
 
Brief Hospital Course:
___ with history of afib on Pradaxa is transferred from OSH for 
management of his acute left iliac artery occlusion. 

 
Patient was started on a heparin infusion and brought to the 
operating room for exploration and angigram given the acute limb 
ischemia. A LLE angiogram was performed followed by left 
iliofemoral embolectomy.  Vascular medicine was consulted who 
recommended a transthoracic echocardiogram.  This ECHO can not 
exclude the presence of thrombus in the left atrial appendage 
but no further workup was needed. Additionally, they recommend 
changing pradaxa to eliquis for anticoagulation. 

Medications for chronic medical conditions were continued 
thoughout hospitalization. 

Lifelong anticoagulation for AF is indicated. 
Dabigatran(pradaxa) was changed to apixaban(eliquis). Aspirin 
and statin for vascular disease is also recommended. On the day 
of discharge, he was ambulatory ad lib, pain free , tolerating 
regular diet and voiding QS. 
We have arranged follow up  with PCP ___ ___ days and Dr. ___ 
in 1 month.  
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Lisinopril 40 mg PO DAILY 
2. amLODIPine 2.5 mg PO DAILY 
3. ALPRAZolam 0.25 mg PO TID:PRN anxiety 
4. Simvastatin 40 mg PO QPM 
5. Atenolol 50 mg PO DAILY 
6. Dabigatran Etexilate 150 mg PO BID 
7. Jalyn (dutasteride-tamsulosin) 0.5-0.4 mg oral DAILY 
8. Omeprazole 20 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN pain/headache  
2.  Apixaban 10 mg PO BID Duration: 7 Days 
Take this dose for 1 week after discharge from the hospital 
RX *apixaban [Eliquis] 5 mg 2 tablet(s) by mouth twice a day 
Disp #*28 Tablet Refills:*0 
3.  Apixaban 5 mg PO BID 
Take this dose after completing the 1 week of higher dose 
Eliquis  
RX *apixaban [Eliquis] 5 mg 1 tablet(s) by mouth twice a day 
Disp #*180 Tablet Refills:*0 
4.  Aspirin EC 81 mg PO DAILY  
5.  ALPRAZolam 0.25 mg PO TID:PRN anxiety  
6.  amLODIPine 2.5 mg PO DAILY  
7.  Atenolol 50 mg PO DAILY  
8.  Jalyn (dutasteride-tamsulosin) 0.5-0.4 mg oral DAILY  
9.  Lisinopril 40 mg PO DAILY  
10.  Omeprazole 20 mg PO DAILY  
11.  Simvastatin 40 mg PO QPM  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Left lower extremity acute limb ischemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___, 
It was a pleasure taking care of you at ___ 
___.  You were admitted to the hospital for workup of 
your sudden onset of left lower pain.   We found a clot in the 
artery was the cause of the pain.  We removed the clot in the 
operating room.  after a peripheral angiogram.   To remove the 
clot, a small incision was made in one of your arteries.  The 
area heals on its own: there are no stitches to remove.  We feel 
this clot was from missing pradaxa doses in combination with 
your atrial fibrillation.   You tolerated the procedure well and 
are now ready to be discharged from the hospital.   Please 
follow the recommendations below to ensure a speedy and 
uneventful recovery.

Vascular Leg Surgery Discharge Instructions

What to except:

•It is normal feel tired for ___ weeks after your surgery
•It is normal to have leg swelling.  Keep your leg elevated as 
much as possible.  This will decrease the swelling. 
•Your leg will feel tired and sore.   This usually passes 
within a few weeks.
•Your incision will be sore, slightly raised, and pink.  Any 
drainage should decrease or stop with in the first 2 weeks. 
•If you are home, you will likely receive a visit from a 
Visiting Nurse ___.  Members of your health care team will 
discuss this with you before you go home.   

Medications:
•Before you leave the hospital, you will be given a list of all 
the medicine you should take at home.  If a medication that you 
normally take is not on the list or a medication that you do not 
take is on the list please discuss it with the team!  

•It is very important that you take Aspirin every day!  You 
should never stop this medication before checking with your 
surgeon

Pain Management:
•It is normal to feel some discomfort/pain following surgery.  
This pain is often described as “soreness”. 
•You may take Tylenol (acetaminophen ) as needed for pain.   
You will also receive a prescription for stronger pain medicine, 
 if the Tylenol doesn’t work, take prescription medicine. 
•Narcotic pain medication can be very constipating, please also 
take a stool softner such as Colace.   If constipation becomes a 
problem, your pharmacist can suggest additional over the counter 
medications. 
•Your pain medicine will work better if you take it before your 
pain gets to severe. 
•Your pain should get better day by day. If you find the pain 
is getting worse instead of better, please contact your surgeon. 


Activity:
•Do not drive until your surgeon says it is okay.  In general, 
driving is not allowed until
-the staples in your leg have been taken out
-your leg feels strong
-you have stopped taking pain medication and feel you could 
respond in an emergency
•Walking is good because it helps your muscles get stronger and 
improves blood flow. Start with short walks.  If you can, go a 
little further each time, letting comfort be your guide.  
•Try not to go up and downstairs too much in the first weeks.  
Use stairs only once or twice a day until your incision is fully 
healed and you are back to your usual strength.
•Avoid things that may constrict blood flow or put pressure on 
your incision, such as tight shoes, socks or knee highs.
•Do not take a tub bath or swim until your wound is healed. 
•When you sit, keep your leg elevated to reduce swelling.
•If swelling in your leg is getting worse, lie down with your 
leg up on a pillows.  If your swelling continues, please call 
your surgeon.  You may be instructed to use special elastic 
bandages or stockings.
•Try not to sit in the same position for a long while.  For 
example, ___ go on a long car ride. 
•You may go outside.  But avoid traveling long distances until 
you see your surgeon at your next visit. 
•You may resume sexual activity after your incisions are well 
healed.

Your incision

•Your incision may be slightly red, this is normal.
•It is normal to have a small amount of clear or light red 
fluid coming from your incision.
This will decrease and stop in a few days.  If it does not stop, 
or if you have a lot of fluid coming out., please call your 
surgeon.
•You may shower 48 hours after your surgery.  Do not let the 
shower spray right on the incision,  Let the soapy water run 
over the incision, then rinse.  Gently pat the area dry.  Do not 
scrub the incision,  Do not apply ointment or lotions to the 
incision.
•You do not need to cover the incision if there is no drainage, 
 If there is a small amount of drainage, put a small sterile 
gauze or Bandaid over the incison.
•It is normal to feel a firm ridge along the incision,  This 
will go away as your wound heals. 
•Avoid direct sun exposure to the incision area for 6 months.  
This will help keep the scar from becoming discolored.
•Over ___ months, your incision will fade and become less 
prominent.

Diet and Bowels
•It is normal to have a decreased appetite.  Your appetite will 
return over time.   Follow a well-balanced, health healthy diet, 
without too much salt and fat. 
•Prescription pain medicine might make you constipated.  If 
needed, you may take a stool softener (such as Colace) or gentle 
laxative (ask your pharmacist for recommendations).
Drinking more fluid may also help.
•If you go 48 hours without a bowel movement, or having pain 
moving your bowels, call your primary care physician.

 
Followup Instructions:
___